US05773011
Preparation of Zinc-L-proline Stock Solution
Into a 500 ml beaker on a magnetic hot plate place magnetic stirrer, 2.07 g Zinc oxide DAB 6 and 25.36 g L-proline DAB 6 (1:9 molecular ratio) and 200 ml 65% ethanol. Heat to gentle boiling under stirring. After a few minutes the ZnO has dissolved. Allow the solution to cool, transfer into a 250 ml volumetric flask and fill to the mark with 65% ethanol. Filter into a bottle for storage. 150 μl of this stock solution contain 1 mg zinc and 16.1 mg L-proline.

reactant | Zinc oxide | 2.07 g | [O-2].[Zn+2]
reactant | L-proline | 25.36 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Zinc L-proline | [Zn].N1[C@H](C(=O)O)CCC1 | InChI=1S/C5H9NO2.Zn/c7-5(8)4-2-1-3-6-4;/h4,6H,1-3H2,(H,7,8);/t4-;/m0./s1
